US07863271B2
To a solution of methyl 5-fluoro-3-hydroxy-2-nitrobenzoate (1.15 g, 5.34 mmol) in a mixture of CH3OH and glacial acetic acid (3:1, 40 mL) was added 10 wt % palladium on activated charcoal (0.20 g, 17 wt %). The suspension was placed in a Parr hydrogenation apparatus under a H2 atmosphere at 50 psi for 1.5 h. The suspension was filtered through diatomaceous earth eluting with CH2Cl2/CH3OH (9:1, 100 mL). Purification by column chromatography (silica gel, 5 to 100% EtOAc in hexanes) afforded methyl 2-amino-5-fluoro-3-hydroxybenzoate (0.80 g, 83%) as a white solid. 1H NMR and MS consistent.

reactant | methyl 5-fluoro-3-hydroxy-2-nitrobenzoate | 5.34 mmol, 1.15 g | FC=1C=C(C(=C(C(=O)OC)C1)[N+](=O)[O-])O | C8H6FNO5
reactant | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | CH3OH | CO | CH4O
catalyst | palladium on activated charcoal | 0.20 g | [Pd] | Pd
product | methyl 2-amino-5-fluoro-3-hydroxybenzoate | 0.80 g, 83% | NC1=C(C(=O)OC)C=C(C=C1O)F | C8H8FNO3
